US07977338B2
A mixture of 400 mg of 4-iodophenylacetic acid, 273 mg of 4-azabenzimidazole, 17.9 mg of trans,trans-dibenzylideneacetone, 303 mg of 1,10-phenanthroline, 19.2 mg of copper (I) trifluoromethanesulfonate benzene complex and 547 mg of Cs2CO3 in 1.5 ml of xylene is stirred for 80 hours at 125° C. The mixture obtained is allowed to cool to rt and concentrated in vacuo. The concentration residue obtained is dissolved in aqueous 1N NaOH solution and extracted with EtOAc. To the aqueous layer aqueous 1N HCl is added in order to obtain an acidic pH and the mixture obtained is extracted with CH2Cl2. The organic phase obtained is dried (Na2SO4), filtered and concentrated. The concentration residue obtained is subjected to reversed phase MPLC(CH3CN/H2O/TFA). (4-Imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid is obtained.

reactant | 4-iodophenylacetic acid | 400 mg | IC1=CC=C(C=C1)CC(=O)O | C8H7IO2
reactant | 4-azabenzimidazole | 273 mg | N1=CNC2=C1C=CC=N2 | C6H5N3
reactant | trans,trans-dibenzylideneacetone | 17.9 mg | C(/C1=CC=CC=C1)=C\C(=O)/C=C/C1=CC=CC=C1 | C17H14O
reactant | 1,10-phenanthroline | 303 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | Cs2CO3 | 547 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CH3CN H2O TFA | CC#N.O.C(=O)(C(F)(F)F)O
solvent | xylene | 1.5 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | NaOH | 1N | [OH-].[Na+]
product | (4-Imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)CC(=O)O | C14H11N3O2
